*******************************************************************************
* Software License Agreement                                                  *
*                                                                             *
* © [2024] Microchip Technology Inc. and its subsidiaries                     *
*                                                                             *
* Subject to your compliance with the terms and conditions of the license     *
* agreement accompanying this software, you may use this Microchip software   *
* and any derivatives exclusively with Microchip products.                    *
* You are responsible for complying with third party license terms applicable *
* to your use of third party software (including open source software) that   *
* may accompany this Microchip software. SOFTWARE IS "AS IS" NO WARRANTIES,   *
* WHETHER EXPRESS, IMPLIED OR STATUTORY, APPLY TO THIS SOFTWARE, INCLUDING    *
* ANY IMPLIED WARRANTIES OF NON-INFRINGEMENT, MERCHANTABILITY, OR FITNESS FOR *
* A PARTICULAR PURPOSE. IN NO EVENT WILL MICROCHIP BE LIABLE FOR ANY          *
* INDIRECT, SPECIAL, PUNITIVE, INCIDENTAL OR CONSEQUENTIAL LOSS, DAMAGE, COST *
* OR EXPENSE OF ANY KIND WHATSOEVER RELATED TO THE SOFTWARE, HOWEVER CAUSED,  *
* EVEN IF MICROCHIP HAS BEEN ADVISED OF THE POSSIBILITY OR THE DAMAGES ARE    *
* FORESEEABLE. TO THE FULLEST EXTENT ALLOWED BY LAW, MICROCHIP'S TOTAL        *
* LIABILITY ON ALL CLAIMS RELATED TO THE SOFTWARE WILL NOT EXCEED AMOUNT OF   *
* FEES, IF ANY, YOU PAID DIRECTLY TO MICROCHIP FOR THIS SOFTWARE.             *
*******************************************************************************

.SUBCKT TC427 1 4 3 2
*             | | | | 
*             | | | Output
*             | | Positive Supply
*             | Negative Supply
*             Input

R1  4    1    18MEG
C1  4    1    10.0P
G3  3    1    TABLE { V(3, 1) } ((-770M,-1.00)(-700M,-10.0M)(-630M,-1.00N)(0,0)(20.0,1.00N))
G4  1    4    TABLE { V(1, 4) } ((-5.94,-1.00)(-5.4,-10.0M)(-4.86,-1.00N)(0,0)(20.0,1.00N))
G11 0    30   TABLE { V(1,11) } ((-1,-10n)(0,0)(1m,1)(1.25,1)(2,1))
G12 0    30   TABLE { V(1,12) } ((-2,-1)(-1.2,-1)(-1m,-1)(0,0)(1,10n))
G21 0    11   TABLE { V(3, 4) } ((0,2.4)(4.00,2.4)(18.0,2.4))
G22 0    12   TABLE { V(3, 4) } ((0,0.8)(4.00,0.8)(18.0,0.8))
R21 0    11   1 TC 504U  2.33U
R22 0    12   1 TC 231U  -103N
C30 30   0    1n  
G31 0    31   TABLE { V(3, 4) } ((0,150)(5.00,30.0)(8.00,27)(10.0,25)(12.0,25)(15.0,25)(18.0,25))
R31 31   0    2.6 TC 4.1M  7.4U
G33 0    30   TABLE { V(31, 30) } ( (-1M,-10)(0,0)(1,10N) )
S31 31   30 31 30 SS31
G32 32   0    TABLE { V(3, 4) } ((0,136)(5.00,61.8)(8.00,47.5)(10.0,41.0)(12.0,39)(15.0,37.8)(18.0,33.5))
R32 0    32   1 TC 1.5M  1.08U
G34 30   0    TABLE { V(30, 32) } ( (-1M,-10)(0,0)(1,10N) )
R30 32   30   1MEG  
G51 0    50   TABLE { V(30, 0) } ( (-5,-1U)(-3,-1U)(0,0)(5,1.19)(18,1.20) )
G52 50   0    TABLE { V(0, 30) } ( (-5,-1U)(-3,-1U)(0,0)(5,1.39)(18,1.40) )
R53 0    50   1  
G50X 51X   0    TABLE { V(3, 4) } ((0,0)(4,0.06)(6.0,0.15)(10,0.38)(13,0.60)(18,3))
R50X 51X  0   1
G50 51   60   VALUE {V(50,0)*V(0,51X)}
R51 51    0   1  
G53  3    0   TABLE {V(51,0)} ((-100,100)(0,0)(1,1n))  
G54  0    4   TABLE {V(0,51)} ((-100,100)(0,0)(1,1n))  
R60 0    60   100MEG  
H67 0    69   V67 1
V67 60   59   0V
C60 561  60   176p
R59 59   2    2.61
L59 59   2    10.0N
VC60 56 0 0V
RC60 56 561 1m
H60 58 0 VC60 56
G60P 0 3 TABLE { V(58, 0) } ((-1,0)(0,0)(.01,0)(1.8,0))
G60N 4 0 TABLE { V(0, 58) } ((-1,0)(0,0)(.01,0)(1.8,0))
E67 67   0    TABLE { V(69, 0) } ( (-1.20,-1.20)(0,0)(1,2.00) )
G63 0    63   POLY(1) 3 4 33.5 -2.78 88.5M
R63 0    63   1 TC 3.89M 11.1U
E61 61   65   VALUE {V(67,0)*V(63,0)}
V63 65   3    100U
G61 61   60   TABLE { V(61, 60) } (-20.0M,-100)(-15.0M,-50.0)(-10.0M,-10.0)(0,0)(10,1N))
E68 68   0    TABLE { V(69, 0) }  ( (-1,-2.00)(0,0)(1.5,1.5) )
G64 0    64   POLY(1) 3 4 18.0 -1.47 48.2M
R64 0    64   1 TC 3.46M 14.5U
E62 62   66   VALUE {V(68,0)*V(64,0)}
V64 66   4    100U
G62 60   62   TABLE { V(60, 62) } (-20.0M,-130)(-15.0M,-65.0)(-10.0M,-13.0)(0,0)(10,1N))
G55 0    55   TABLE { V(3, 4) } ((0,0)(4.50,3.4M)(18.0,5.5M))
G56 3    4    55 0 1
R55 55   0    1 TC  462U 6.89U
G57 0    57   TABLE { V(3, 4) } ((0,0)(4.50,160.0U)(18.0,210.0U))
G58 3    4    57 0 1
R57 57   0    1 TC  -692U 11.9U
S59 55   0    1 0 SS59
.MODEL SS59 VSWITCH Roff=1m Ron=100Meg Voff=1.2V Von=1.5V
.MODEL SS31 VSWITCH Roff=100MEG Ron=800 Voff=0.2V Von=0.1V

.ENDS TC427
